### PR TITLE
Add tactics for proving alignments automatically

### PR DESCRIPTION
**Pull request by agontard**
Following #7, alignment of all functions on lists but filter, deleting lemmas that had become useless.
Also new alignment for recspace and tactics to align inductive types.

TODO:
- [x] update README (Frédéric)
- [x] update CHANGES (Frédéric)
- [x] update mapped functions in README if needed (Antoine)
- [x] add mappings.lp if changed (Antoine)

### CODE REVIEW

**Comment by fblanqui** [comment]
Hi. Why do you have 2 PRs? Please close the one that you don't want to merge.

File: mappings.v [hunk 1]
```diff
@@ -2158,7 +2158,199 @@ Proof.
...
+
+(****************************************************************************)
+(* Some first lemmas to help automatize function alignments *)
+(****************************************************************************)
+
+(* HOL-Light unnecessary variable elimination *) 
+Lemma hol_uv_elim {U A B : Type'} {g : A -> B} (P : (A -> B) -> Prop) {uv0 : U} : 
+(forall g' : A -> B, P g' <-> forall x : A, g' x = g x) -> 
+g = ε (fun f : U -> A -> B => forall uv : U, P (f uv)) uv0.
+Proof.
```
Comment (fblanqui) [inline mappings.v]: Thank you Antoine for your PR. Here are some remarks:
Help readers to understand your lemmas by:
- Improving its presentation by using indentation.
- Add more extensive comments by, for instance, formulating the theorem in natural language, explaining the role of key variables like f and P here, giving some example.
- Use the section mechanism to abstract a set of definitions and lemmas over a common set of variables, like U, A, B, etc. here.

Before going into the details of each theorem, you can also add a general comment at the beginning of the section where you explain your goal.

File: mappings.v [hunk 2]
```diff
@@ -2173,130 +2365,44 @@ Qed.
...
-  induction l as [|a l]. simpl. apply H.
-  simpl. rewrite <- IHl.
-  generalize (NUMERAL 82,
-              (NUMERAL (BIT1 34),
-                (NUMERAL 86,
-                  (NUMERAL (BIT1 34),
-                    (NUMERAL 82, (NUMERAL (BIT1 (BIT1 20)),
-                      NUMERAL (BIT1 34))))))); intro p.
-  assert (ε Q p (a :: l) = (ε Q p l) ++ (a :: nil)). apply H. apply H0.
+now rewrite (hol_list_recursive_align_varright (A:=A) nil (fun a _ b =>
```
Comment (fblanqui) [inline mappings.v]: Is it really necessary to specify A?

File: mappings.v [hunk 3]
```diff
@@ -2173,130 +2365,44 @@ Qed.
...
-  simpl. rewrite <- IHl.
-  generalize (NUMERAL 82,
-              (NUMERAL (BIT1 34),
-                (NUMERAL 86,
-                  (NUMERAL (BIT1 34),
-                    (NUMERAL 82, (NUMERAL (BIT1 (BIT1 20)),
-                      NUMERAL (BIT1 34))))))); intro p.
-  assert (ε Q p (a :: l) = (ε Q p l) ++ (a :: nil)). apply H. apply H0.
+now rewrite (hol_list_recursive_align_varright (A:=A) nil (fun a _ b => 
+b ++ a :: nil)).
```
Comment (fblanqui) [inline mappings.v]: Better indent your code and use more instructive variable names to help reading and understanding. For instance:
```
now rewrite (hol_list_recursive_align_varright (A:=A)
  nil
  (fun a _ l => l ++ a :: nil)).
```

File: mappings.v [hunk 4]
```diff
@@ -2173,130 +2365,44 @@ Qed.
...
+Lemma LENGTH_def {A : Type'} : (fix f (l : list A) := match l with |nil => N0 |x::l => N.succ (f l) end) = (@ε ((prod N (prod N (prod N (prod N (prod N N))))) -> (list A) -> N) (fun LENGTH' : (prod N (prod N (prod N (prod N (prod N N))))) -> (list A) -> N => forall _18106 : prod N (prod N (prod N (prod N (prod N N)))), ((LENGTH' _18106 (@nil A)) = (N0)) /\ (forall h : A, forall t : list A, (LENGTH' _18106 (@cons A h t)) = (N.succ (LENGTH' _18106 t)))) (@pair N (prod N (prod N (prod N (prod N N)))) ((BIT0 (BIT0 (BIT1 (BIT1 (BIT0 (BIT0 (BIT1 N0)))))))) (@pair N (prod N (prod N (prod N N))) ((BIT1 (BIT0 (BIT1 (BIT0 (BIT0 (BIT0 (BIT1 N0)))))))) (@pair N (prod N (prod N N)) ((BIT0 (BIT1 (BIT1 (BIT1 (BIT0 (BIT0 (BIT1 N0)))))))) (@pair N (prod N N) ((BIT1 (BIT1 (BIT1 (BIT0 (BIT0 (BIT0 (BIT1 N0)))))))) (@pair N N ((BIT0 (BIT0 (BIT1 (BIT0 (BIT1 (BIT0 (BIT1 N0)))))))) ((BIT0 (BIT0 (BIT0 (BIT1 (BIT0 (BIT0 (BIT1 N0)))))))))))))).
```
Comment (fblanqui) [inline mappings.v]: Add a definition of LENGTH before that we can use later:
```
Fixpoint LENGTH {A:Type} (l:list A) :N :=
  match l with
  | nil => N0
  | _::l => N.succ (LENGTH l)
  end.
Lemma LENGTH_def {A : Type'} : @LENGTH A = ...
```

File: mappings.v [hunk 5]
```diff
@@ -2158,7 +2158,199 @@ Proof.
...
+  | 0%nat => x a0 | S n1 => f a0 (N.of_nat n1) (g (TA a0) n1) end in 
+  fun (a0 : A) (n0 : N) => g a0 (N.to_nat n0)) a n)). 
+  now intro a;rewrite HO. intros n IHn a. rewrite HS. rewrite IHn. simpl. 
+  rewrite Nnat.N2Nat.inj_succ. now rewrite Nnat.N2Nat.id.
+  - split. intro a. now rewrite H. intros a n. rewrite H. rewrite H. simpl. 
+  rewrite Nnat.N2Nat.inj_succ. now rewrite Nnat.N2Nat.id.
+Qed.
+
+(* simplifying a match made with COND over a list *) 
+Lemma COND_list {A B : Type'} {l : list A} {x y : B} :
```
Comment (fblanqui) [inline mappings.v]: Here, A and B do not need to be non-empty. You should be able to declare them in Type.

File: mappings.v [hunk 6]
```diff
@@ -2158,7 +2158,199 @@ Proof.
...
+  fun (a0 : A) (n0 : N) => g a0 (N.to_nat n0)) a n)). 
+  now intro a;rewrite HO. intros n IHn a. rewrite HS. rewrite IHn. simpl. 
+  rewrite Nnat.N2Nat.inj_succ. now rewrite Nnat.N2Nat.id.
+  - split. intro a. now rewrite H. intros a n. rewrite H. rewrite H. simpl. 
+  rewrite Nnat.N2Nat.inj_succ. now rewrite Nnat.N2Nat.id.
+Qed.
+
+(* simplifying a match made with COND over a list *) 
+Lemma COND_list {A B : Type'} {l : list A} {x y : B} : 
+COND (l=nil) x y = match l with |nil => x |a::l => y end.
```
Comment (fblanqui) [inline mappings.v]: For a one-line definition like this, I would suggest to use the following writing:
```
match l with nil => x | _ => y end
```

- No bar before the first constructor, and a space after each bar.
- Replace unused variables by _.

File: mappings.v [hunk 7]
```diff
@@ -2365,86 +2471,78 @@ destruct (f a). rewrite <- is_true_of_true. rewrite COND_True. rewrite
 <- IHl. reflexivity.  rewrite <- is_true_of_false. apply COND_False.
 Qed.*)
 
+Lemma eq_sym_r {A : Type} (a b : A) : (a=b)=(b=a). 
+Proof. 
+now apply prop_ext;intro;apply eq_sym. 
+Qed.
```
Comment (fblanqui) [inline mappings.v:2610]: This is already proved on line 179 (Lemma sym).

File: mappings.v [hunk 8]
```diff
@@ -2365,86 +2471,78 @@ destruct (f a). rewrite <- is_true_of_true. rewrite COND_True. rewrite
...
+(fun a' a l c => a'=a \/ c)). 
+ext a l. induction l. auto. rewrite <- IHl. now rewrite (eq_sym_r a a0).
+Qed.
 
-(*
-Definition fold_right_with_perm_args {A B : Type'} (f: A -> B -> B) (l: list A) (b: B) : B := @fold_right B A f b l.
+Fixpoint repeatpos {A : Type} (a : A) (n : positive) : list A := match n with
+|xH => a::nil
+|xO n => let l := repeatpos a n in l++l 
+|xI n => let l := repeatpos a n in a::l++l end.
```
Comment (fblanqui) [inline mappings.v]: Please format like this:
```
Fixpoint repeatpos {A : Type} (a : A) (n : positive) : list A :=
match n with
| xH => a::nil
| xO n => let l := repeatpos a n in l++l 
| xI n => let l := repeatpos a n in a::l++l
end. 
```

File: mappings.v [hunk 9]
```diff
@@ -2365,86 +2471,78 @@ destruct (f a). rewrite <- is_true_of_true. rewrite COND_True. rewrite
...
+Definition repeatN {A : Type} (a : A) (n : N) : list A := match n with 
+|0 => nil 
+|Npos n => repeatpos a n end. 
+
+Lemma repeatN_double {A : Type} (a : A) (n : N) : 
+repeatN a (N.double(n)) = repeatN a n ++ (repeatN a n).
```
Comment (fblanqui) [inline mappings.v]: Too many parentheses:
```
repeatN a (N.double n) = repeatN a n ++ repeatN a n.
```

File: mappings.v [hunk 10]
```diff
@@ -2365,86 +2471,78 @@ destruct (f a). rewrite <- is_true_of_true. rewrite COND_True. rewrite
...
...) (fun REPLICATE' : (prod N (prod N (prod N (prod N (prod N (prod N (prod N (prod N N)))))))) -> N -> A -> list A => forall _18125 : prod N (prod N (prod N (prod N (prod N (prod N (prod N (prod N N))))))), (forall x : A, (REPLICATE' _18125 (N0) x) = (@nil A)) /\ (forall n : N, forall x : A, (REPLICATE' _18125 (N.succ n) x) = (@cons A x (REPLICATE' _18125 n x)))) (@pair N (prod N (prod N (prod N (prod N (prod N (prod N (prod N N))))))) ((BIT0 (BIT1 (BIT0 (BIT0 (BIT1 (BIT0 (BIT1 N0)))))))) (@pair N (prod N (prod N (prod N (prod N (prod N (prod N N)))))) ((BIT1 (BIT0 (BIT1 (BIT0 (BIT0 (BIT0 (BIT1 N0)))))))) (@pair N (prod N (prod N (prod N (prod N (prod N N))))) ((BIT0 (BIT0 (BIT0 (BIT0 (BIT1 (BIT0 (BIT1 N0)))))))) (@pair N (prod N (prod N (prod N (prod N N)))) ((BIT0 (BIT0 (BIT1 (BIT1 (BIT0 (BIT0 (BIT1 N0)))))))) (@pair N (prod N (prod N (prod N N))) ((BIT1 (BIT0 (BIT0 (BIT1 (BIT0 (BIT0 (BIT1 N0)))))))) (@pair N (prod N (prod N N)) ((BIT1 (BIT1 (BIT0 (BIT0 (BIT0 (BIT0 (BIT1 N0)))))))) (@pair N (prod N N) ((BIT1 (BIT0 (BIT0 (BIT0 (BIT0 (BIT0 (BIT1 N0)))))))) (@pair N N ((BIT0 (BIT0 (BIT1 (BIT0 (BIT1 (BIT0 (BIT1 N0)))))))) ((BIT1 (BIT0 (BIT1 (BIT0 (BIT0 (BIT0 (BIT1 N0))))))))))))))))).
```
Comment (fblanqui) [inline mappings.v]: Change goal to `@repeatN A = ...`. (No need to exta-expand here.)

File: mappings.v [hunk 11]
```diff
@@ -2365,86 +2471,78 @@ destruct (f a). rewrite <- is_true_of_true. rewrite COND_True. rewrite
...
 Proof.
-  unfold HD. generalize (NUMERAL (BIT0 (BIT0 (BIT0 (BIT1 (BIT0 (BIT0 (BIT1 0))))))),
-    NUMERAL (BIT0 (BIT0 (BIT1 (BIT0 (BIT0 (BIT0 (BIT1 0)))))))); intro p.
-  match goal with |- ε ?x _ _ = _=> set (Q := x) end.
-  assert (i: exists q, Q q). exists (fun _=> @hd A (HD nil)).
-  unfold Q. intro. simpl. trivial.
-  generalize (ε_spec i). intro H. apply H.
+rewrite <- REPLICATE_def0. ext n a. now rewrite repeat_N_nat.
```
Comment (fblanqui) [inline mappings.v]: Why do you need to go through the type nat? You can directly do some Peano-like induction on N using N.peano_ind. A tactic would be useful here by the way because, to apply N.peano_ind, we need to various things before. See for instance the proof of dest_num_inj line 930:
```
  intro x. pattern x. revert x. apply N.peano_ind.
```

**Review by fblanqui — CHANGES_REQUESTED** [review]

**Comment by fblanqui** [comment]
Note that CI failed with Coq 8.19. See https://github.com/Deducteam/coq-hol-light-real-with-N/actions/runs/14446752475/job/40575301023?pr=8. And it seems to be a bug in Coq that you should report.
```
- COQC mappings.v
  - File "./mappings.v", line 2631, characters 0-885:
  - Error:
  - Anomaly
  - "File "kernel/cClosure.ml", line 134, characters 26-32: Assertion failed."
  - Please report at [http://coq.inria.fr/bugs/.](http://coq.inria.fr/bugs/)
  ```

File: mappings.v (hunk 2 above)
Comment (agontard) [reply mappings.v]: it would not work if it were not specified, yes. I do not know much about how / if it is possible to help coq with type infering in such cases / in tactics but I will definitely look into it further later.

File: mappings.v (hunk 5 above)
Comment (agontard) [reply mappings.v]: B is required to be Type' in COND's definition.

File: mappings.v (hunk 11 above)
Comment (agontard) [reply mappings.v]: We need to use the fact that the HOL_Light REPLICATE function is such that 
`REPLICATE (n+m) a = REPLICATE n a ++ REPLICATE m a` 
so it is simpler to translate it to nat's repeat function which does have this lemma.  

I suppose the "pattern" in the line you cited is to make coq's pattern matching easier ? In that case it is not needed here, but it might be useful in some other places, so I will look into it.

File: mappings.v (hunk 2 above)
Comment (fblanqui) [reply mappings.v]: In this case, A should not be declared as implicit argument.

File: mappings.v (hunk 5 above)
Comment (fblanqui) [reply mappings.v]: Right.

File: mappings.v (hunk 2 above)
Comment (agontard) [reply mappings.v]: Should it really not ? I think it's more natural that the only explicit arguments are recursion cases. 
If the problem is that A is declared on its own like this, would it be alright if I kept it implicit but explicited the types in the functions ? It works as well.

File: mappings.v [hunk 12]
```diff
@@ -109,25 +109,42 @@ Ltac gobble f x :=
   clearbody g ; clear f x ;
   rename g into f.
 
+(* a function translated from HOL-Light will usually look like the following :
+
+  "Exemple = ε (U -> (...)) (fun f => forall uv : U P (f (uv))) uv0"
```
Comment (TheoWinterhalter) [inline mappings.v]: Example

File: mappings.v [hunk 13]
```diff
@@ -109,25 +109,42 @@ Ltac gobble f x :=
...
+  where P f is a Prop defining the function that does not depend on uv
+  (so the uv0 appearing does not impact the function whatsoever)
+  
+  In that case the following tactic associates exemple with 
+  (fun uv => exemple) uv0 and applies f_equal to remove uv0
+  then removes the ε thanks to lemma align_ε. *)
 Ltac align_ε :=
-  let rec aux :=
+let rec aux :=
```
Comment (TheoWinterhalter) [inline mappings.v]: Why remove indentation?

Comment (agontard) [reply mappings.v]: Copy and paste error, my bad.

File: mappings.v [hunk 14]
```diff
@@ -109,25 +109,66 @@ Ltac gobble f x :=
...
+          try specialize (H' uv) ; (* as P starts with "forall uv" *)
+          try gobble a' uv ; (* replaces f' uv by f' since uv is not used *)
+          revert a' H'
+        ]
+    | |- _ = ε _ => apply align_ε 
+    | |- _ ?x = ε _ ?x => apply (f_equal (fun f => f x)) ; aux
+    end
+  in aux.
+
+(* Same as align_ε, but the second subgoal generated is [P f -> P f' -> f = f']. *)
```
Comment (fblanqui) [inline mappings.v]: It would be better to factorize the two tactics as much as possible. Actually, why do you need (P f) in your tactic since it is already proved?

File: mappings.v [hunk 15]
```diff
@@ -109,25 +109,66 @@ Ltac gobble f x :=
   clearbody g ; clear f x ;
   rename g into f.
 
+(* The definition of an HOL-Light function that is recursively defined
```
Comment (fblanqui) [inline mappings.v:122]: Could you please add a description of what gobble does?

File: mappings.v [hunk 16]
```diff
@@ -109,25 +109,66 @@ Ltac gobble f x :=
...
   let rec aux :=
     lazymatch goal with
-    | |- _ = ε _ => apply align_ε
+    | |- ?a = ε ?P ?r =>
+        (* replace this goal by (fun _ => a = ε ?P) *)
+        apply (f_equal (fun g => g r) (x := fun _ => a)) ;
+        apply align_ε ; (* replaces the goal (a = ε P) with two goals (P a) and
+                        (forall x, P x => x = a). *)
+        [ let uv := fresh "uv" in 
+          intro uv ; try clear uv
```
Comment (fblanqui) [inline mappings.v]: I am wondering why you are using so many try's. Wouldn't be better to fail when a tactic doesn't work? Could you please try to remove as much try's as possible?

File: mappings.v [hunk 17]
```diff
@@ -1006,6 +1047,79 @@ Proof.
...
 Qed.
 
+(****************************************************************************)
+(* tactics to align recursive functions on N. *)
+(****************************************************************************)
+
+(* at this point, following align_ε', we have two goals : P f and P f -> P f' -> f = f' *)
+Ltac N_rec_align1 := (* only now do we assume that functions are defined recursively
+                        and therefore P is a conjunction of two cases PO and PS*)
+  align_ε' ; [ split ; auto (* since it is a conjunction, we can split *)
```
Comment (fblanqui) [inline mappings.v]: The order of comments is not appropriate. For instance, "at this point, ..." should appear after the call to align_ε'. Etc.

File: mappings.v [hunk 18]
```diff
@@ -1006,6 +1047,79 @@ Proof.
   apply f_equal. apply axiom_7.
 Qed.
 
+(****************************************************************************)
+(* tactics to align recursive functions on N. *)
+(****************************************************************************)
+
```
Comment (fblanqui) [inline mappings.v:1155]: Could you please add a specification of the tactic: on what kind of context/goal it applies, and what are the generated subgoals if any?

Comment (fblanqui) [reply mappings.v:1155]: Idem for every tactic. This help people to use/fix/improve them.

**Review by fblanqui — CHANGES_REQUESTED** [review]
Thanks for your commits. Here are some more comments.

File: mappings.v (hunk 14 above)
Comment (agontard) [reply mappings.v]: If there is a way to use a former subgoal as hypothesis, I do not know of it. P f is useful for automatization of f=f' (which, in older proofs using align_ε, basically requires to prove P f a second time)

File: mappings.v [hunk 19]
```diff
@@ -251,74 +315,87 @@ Qed.
...
-(* Conditional. *)
+(* ifp then else : if then else over Prop. *)
 (****************************************************************************)
 
-Definition COND {A : Type'} := fun t : Prop => fun t1 : A => fun t2 : A => @ε A (fun x : A => ((t = True) -> x = t1) /\ ((t = False) -> x = t2)).
+Definition COND {A : Type'} (P : Prop) (x y : A) := 
+  ε (fun z : A => (P -> z = x) /\ (~P -> z = y)).
 
-Lemma COND_def {A : Type'} : (@COND A) = (fun t : Prop => fun t1 : A => fun t2 : A => @ε A (fun x : A => ((t = True) -> x = t1) /\ ((t = False) -> x = t2))).
-Proof. exact (eq_refl (@COND A)). Qed.
```
Comment (fblanqui) [inline mappings.v:272]: You must not remove this lemma as it is used in HOL-Light, as all *_def lemmas.

Comment (fblanqui) [reply mappings.v:272]: This is the last thing to do to merge the PR.

Comment (agontard) [reply mappings.v:272]: I must have deleted it by accident alongside other things. I put it back.
